US07034052B2
To a solution of (3R)-3-[4-chloro-7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxy-phenyl)-propionic acid (0.62 g, 1.3 mmol) in THF (5 ml) was added carbonyldiimidazole (0.3 g, 2 mmol) at room temperature. The solution was stirred for 2 hrs at room temperature. To the mixture was added NH4OH (13.8 N, 0.3 ml, 3.9 mmol). The resulting mixture was stirred at room temperature for 4 hrs. Water (20 ml) was added to the reaction mixture. THF was removed in vacuo and to the resulting mixture was added ethyl acetate (30 ml). The mixture was washed with saturated sodium bicarbonate solution (3×20 ml), water (20 ml) and brine (20 ml). The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting oil was stirred with ether (5 ml) for 2 hrs and filtered to give (1R)-cyclopropanecarboxylic acid {2-[2-carbamoyl-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-7-chloro-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as white solid (0.5 g, 82%): mp 201–203° C.; 1HNMR (CDCl3): δ 0.88–0.91 (m, 2H, c-CH2), 1.08–1.11(m, 2H, c-CH2), 1.45 (t, J=7.5 Hz, 3H, OCH2CH3), 1.65–1.68 (m, 1H, c-CH), 2.98 (dd, J=5, 16 Hz, 1H, CHH), 3.36 (dd, J=5, 16 Hz, 1H, CHH), 3.86 (s, 3H, OCH3), 4.08 (q, J=7.5 Hz, 2H, OCH2CH3), 4.13 (d, J=17 Hz, 1H, NCHH), 4.35 (d, J=17 Hz, 1H, NCHH), 5.42 (broad s, 1H), 5.58–5.64 (m, 1H, CHN), 6.00 (broad s, 1H), 6.83–6.95 (m, 3H, Ar), 7.36 (d, J=9 Hz, 1H, Ar), 8.43 (d, J=9 Hz, 1H, Ar), 10.41 (s, 1H); 13C NMR (CDCl3): 8.4, 14.7, 16.1, 38.6, 48.6, 46.7, 53.2, 53.4, 56.0, 64.5, 65.8, 112.2, 119.0, 119.1, 119.5, 121.8, 130.6, 132.8, 136.6, 139.1, 148.7, 149.4, 169.0, 171.8, 172.6; Anal. Calcd. for C24H26ClN3O5: C, 61.08; H, 5.55; N, 8.90. Found: C, 60.89; H, 5.42; N, 8.51.

reactant | (3R)-3-[4-chloro-7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxy-phenyl)-propionic acid | 1.3 mmol, 0.62 g | ClC1=C2CN(C(C2=C(C=C1)NC(=O)C1CC1)=O)[C@H](CC(=O)O)C1=CC(=C(C=C1)OC)OCC | C24H25ClN2O6
reactant | carbonyldiimidazole | 2 mmol, 0.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | NH4OH | 3.9 mmol, 13.8 N, 0.3 ml | [NH4+].[OH-]
reactant | Water | 20 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (1R)-cyclopropanecarboxylic acid {2-[2-carbamoyl-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-7-chloro-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 0.5 g, 82% | C(N)(=O)C[C@H](C1=CC(=C(C=C1)OC)OCC)N1CC2=C(C=CC(=C2C1=O)NC(=O)C1CC1)Cl | C24H26ClN3O5
